US06093710
N-Methylmorpholine (0.69 ml) was added to a mixture of 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene-2-carboxylic acid (1.05 g) and THF (10 ml) at -15~-20° C. under nitrogen atmosphere, and isobutyl chloroformate (0.82 ml) was added thereto over 2 minutes. The mixture was stirred under the same condition for 30 minutes, and conc. ammonia (c.NH3) was added thereto. The mixture was stirred at r.t. for 2 hours. The reaction mixture was poured into a mixture of water and AcOEt to precipitate. The precipitate was collected by filtration, washed with water and Et2O, and dried in vacuo to give 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene-2-carboxamide (0.59 g).

reactant | N-Methylmorpholine | 0.69 ml | CN1CCOCC1 | C5H11NO
reactant | 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene-2-carboxylic acid | 1.05 g | C(CCC)=C1CCCCC=2SC(=CC21)C(=O)O | C14H18O2S
reactant | isobutyl chloroformate | 0.82 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | N | H3N
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene-2-carboxamide | 0.59 g | C(CCC)=C1CCCCC=2SC(=CC21)C(=O)N | C14H19NOS
